US07122683B2
tert-butyl (3S)-3-(cyclobutylamino)pyrrolidine-1-carboxylate
tert-butyl (3S)-3-(cyclobutylamino)pyrrolidine-1-carboxylate was prepared by a method similar to that described in preparation 1 using tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate and cyclobutanone (15 equivalents: 10 eq. added first, 5 eq. added before the second azeotropic removal of water) except that the crude product was purified by column chromatography on silica gel to yield the title compound, 542 mg (28%).

reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
solvent | water | O | H2O
product | tert-butyl (3S)-3-(cyclobutylamino)pyrrolidine-1-carboxylate | C1(CCC1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
